US04695654
To a solution of N-(4-benzyloxy-2,2-difluorobutyl)-p-toluenesulfonamide (7.0 g, 19 mM) in dry DMF (20 mL), is added potassium-tert.-butoxide (2.34 g, 21 mmoles), and the mixture is stirred for 30 minutes. To this mixture are added N-3-bromopropyl-phthalimide (5.1 g, 19 mmoles) and sodium iodide (0.33 g), and the entire mixture is then stirred overnight under nitrogen at room temperature. Following the addition of brine, the mixture is extracted with ether, washed with 1N HCl (twice), then with brine (twice), and dried over Na2SO4. Evaporation of the solvent yields 1-phthalimido-4-p-toluenesulfonyl-6,6-difluoro-8-benzyloxy-4-aza-octane as an oil, which crystallizes on scratching with ether/petroleum ether to form white crystals: 9.5 g (90%).

reactant | N-(4-benzyloxy-2,2-difluorobutyl)-p-toluenesulfonamide | 19 mM, 7.0 g | C(C1=CC=CC=C1)OCCC(CNS(=O)(=O)C1=CC=C(C=C1)C)(F)F | C18H21F2NO3S
reactant | potassium tert.-butoxide | 21 mmoles, 2.34 g | [K].CC(C)([O-])C
reactant | N-3-bromopropyl-phthalimide | 19 mmoles, 5.1 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | sodium iodide | 0.33 g | [I-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 1-phthalimido-4-p-toluenesulfonyl-6,6-difluoro-8-benzyloxy-4-aza-octane | C1(C=2C(C(N1CCCN(CC(CCOCC1=CC=CC=C1)(F)F)S(=O)(=O)C1=CC=C(C=C1)C)=O)=CC=CC2)=O | C29H30F2N2O5S
